US06914074B2
8-Fluoro-6-(3-fluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 8-fluoro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol (0.10 g, 0.35 mmol) with boron tribromide (0.7 mL of 1N solution, 0.7 mmol) according to method D to yield 0.020 g (21%) of a white solid: mp 218-220° C. d; 1H NMR (DMSO-d6): δ 7.01-7.07 (1H, m), 7.16-7.19 (2H, m), 7.46 (1H, dd, J=1.74 Hz, J=8.40 Hz), 7.56-7.65 (2H, m), 7.88 (1H, d, J=8.31 Hz), 7.93 (1H, bs), 10.04 (1H, s), 10.11 (1H, s); MS (ESI) m/z 271 (M−H)−.

reactant | 8-fluoro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol | 0.35 mmol, 0.10 g | FC=1C=C(C=C2C=CC(=CC12)O)C1=CC(=C(C=C1)OC)F | C17H12F2O2
reactant | boron tribromide | 0.7 mmol, 1N, 0.7 mL | B(Br)(Br)Br | BBr3
product | 8-Fluoro-6-(3-fluoro-4-hydroxyphenyl)-2-naphthol | FC=1C=C(C=C2C=CC(=CC12)O)C1=CC(=C(C=C1)O)F | C16H10F2O2
